US07759385B2
3-pyrrolidine-yl-1H-indole
Lithium aluminum hydrate (2.86 g, 75.6 mmole) was suspended in dry THF (50 ml) with the exclusion of atmospheric moisture. The suspension was cooled by means of an ice-salt bath to an internal temperature of ca. 0° C. 3-(1H-indol-3-yl)-pyrrolidine-2,5-dione (3.24 g, 15.12 mmole) was then added in portions within 15 minutes. After ca. 1 hour the reaction mixture had reached RT and was then boiled under reflux for 32 hours. After the reaction mixture had cooled moist THF (5 ml water in 25 ml THF) was first carefully added, followed by 5M sodium hydroxide (3 ml) and finally water (3 ml). The reaction mixture was stirred for 20 minutes and filtered through diatomaceous earth. The solvent mixture obtained after washing the filter cake several times with methanol was evaporated to dryness. The oily residue obtained was purified by column chromatography on silica gel with methanol/30% aqueous ammonia (20:1). The product was filtered again through diatomaceous earth. The solution obtained by washing the diatomaceous earth several times with chloroform was evaporated to dryness. The desired product was thereby obtained as a viscous oil in a yield of 670 mg (24%).

reactant | Lithium aluminum hydrate | 75.6 mmole, 2.86 g | O.[Al].[Li]
reactant | 3-(1H-indol-3-yl)-pyrrolidine-2,5-dione | 15.12 mmole, 3.24 g | N1C=C(C2=CC=CC=C12)C1C(NC(C1)=O)=O | C12H10N2O2
reactant | sodium hydroxide | 5M, 3 ml | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-pyrrolidine-yl-1H-indole | N1(CCCC1)C1=CNC2=CC=CC=C12 | C12H14N2
